US07820715B2
(1S)-1-Propylheptyl 4-methylbenzenesulfonate
Under an argon atmosphere, cuprous chloride (4.6 g) was added to a solution of (2R)-2-hexyloxirane (300 g) in tetrahydrofuran (642 mL), and then ethylmagnesium chloride tetrahydrofuran solution (2.1 mol/L, 1309 g) was added dropwise at −40 to −20° C. (inner temperature). The reaction mixture was stirred at −30 to −20° C. (inner temperature) for about 30 minutes, and then tosyl chloride (491 g) was added, and the mixture was stirred at 0-20° C. (inner temperature) for about 4 hours. To the reaction mixture was then added 10 v/v % sulfuric acid (conc. sulfuric acid:water=65 mL:650 mL), aqueous sodium chloride (13.6 g) solution (272 mL) and ethyl acetate (1.5 L) for extraction. The resulting organic layer was washed with (1) a solution of sodium chloride (32 g) in water (636 mL), (2) a mixture of a solution of potassium carbonate (73 g) in water (730 mg) and a saturated brine (200 mL), and (3) a saturated brine (600 mL) in order, and then concentrated to give the title compound (758.7 g; yield 89%).

reactant | (2R)-2-hexyloxirane | 300 g | C(CCCCC)[C@H]1OC1 | C8H16O
reactant | ethylmagnesium chloride tetrahydrofuran | 2.1 mol/L, 1309 g | O1CCCC1.C(C)[Mg]Cl
reactant | tosyl chloride | 491 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | sulfuric acid | 65 mL | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 642 mL | O1CCCC1 | C4H8O
catalyst | sodium chloride | 13.6 g | [Cl-].[Na+]
solvent | ethyl acetate | 1.5 L | C(C)(=O)OCC | C4H8O2
product | (1S)-1-Propylheptyl 4-methylbenzenesulfonate | 758.7 g, yield 89% | CC1=CC=C(C=C1)S(=O)(=O)O[C@H](CCCCCC)CCC | C17H28O3S
